US05418237
A mixture of 2.87 g of 3-(4-aminobutyl)-5-indolylurea [obtainable from 5-indolylurea via 3-(4-chlorobutyryl)-5-indolylurea, 3-(4-chlorobutyl) -5-indolylurea and 3-(4-phthalimidobutyl)-5-indolylurea] and one equivalent of N,N-bis(2-chloroethyl)-o-cyanoaniline ("C") in 40 ml of acetone and 40 ml of water is boiled for 24 hours and worked up in a conventional manner. 3-[4-(4-o-Cyanophenylpiperazino)butyl]-5-indolylurea, hydrochloride, m.p. 164°-166° is obtained.

reactant | 3-(4-aminobutyl)-5-indolylurea | 2.87 g | NCCCCC1=CNC2=CC=C(C=C12)NC(=O)N | C13H18N4O
reactant | N,N-bis(2-chloroethyl)-o-cyanoaniline | one equivalent | ClCCN(C1=C(C=CC=C1)C#N)CCCl | C11H12Cl2N2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | 3-[4-(4-o-Cyanophenylpiperazino)butyl]-5-indolylurea, hydrochloride | Cl.C(#N)C1=C(C=CC=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)NC(=O)N | InChI=1S/C24H28N6O.ClH/c25-16-18-5-1-2-7-23(18)30-13-11-29(12-14-30)10-4-3-6-19-17-27-22-9-8-20(15-21(19)22)28-24(26)31;/h1-2,5,7-9,15,17,27H,3-4,6,10-14H2,(H3,26,28,31);1H
